US06492370B1
bis[2-[N-(2-Cyclohexylethyl)amino]ethyl]disulfide (Reference Compound No. 19-1)
A solution of iodine (378 mg) in methanol (5 ml) is added dropwise to a solution of N-(2-cyclohexylethyl)thiazolidine (594 mg) in methanol (10 ml) at room temperature with stirring. After the dropping, the mixture is stirred at room temperature for 30 minutes. A 4 N aqueous sodium hydroxide solution (10 ml) is added to the reaction mixture, and the mixture is concentrated under reduced pressure. Chloroform is added to the concentrate, and the whole is extracted. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 571 mg (51%) of the titled compound (Reference compound No. 19-1).

reactant | iodine | 378 mg | II | I2
reactant | N-(2-cyclohexylethyl)thiazolidine | 594 mg | C1(CCCCC1)CCN1CSCC1 | C11H21NS
reactant | sodium hydroxide | 4 N, 10 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | bis[2-[N-(2-Cyclohexylethyl)amino]ethyl]disulfide | 571 mg, 51% | C1(CCCCC1)CCNCCSSCCNCCC1CCCCC1 | C20H40N2S2
